US06462035B1
E) 5.6-Difluorotricyclo[7.2.1.02,7]dodeca-2(7), 3,5,10-tetraene
Trifluoro-methanesulfonic acid 2-cyclopent-3-enylmethyl-3,4-difluoro-phenyl ester (340 mg, 0.99 mmol), was dissolved In DMF (5 mL) under a N2 atmosphere and treated with diisopropylethylamine (0.28 mL, 1.5 mmol), potassium acetate (981 mg, 10.0 mmol) and tri-o-tolylphosphine (12 mg, 0.04 mmol). This mixture was stirred and degassed (3 vacuum/N2 purge cycles) and then treated with palladium acetate (5 mg, 0.02 mmol). After 20 min. the mixture was warmed to 100° C. for 18 hours, cooled and poured into brine (50 mL). The resulting mixture was extracted with hexanes (4×25 mL) and the combined organic layer was washed with a sat. aq. NaHCO3 soln. (10 mL), water (H2O) (10 mL), brine (10 mL), dried (magnesium sulfate (MgSO4)), filtered and and chromatographed on silica gel to provide an oil (110 mg, 60%). (TLC hexanes Rf 0.58). 1H NMR (CDCl3) δ6.80 (ddd, J=6.6,8.1,8.3 Hz, 1H), 6.68 (m, 1H), 6.17 (dd, J=5.5,2.8 Hz, 1H), 5.77 (dd, J=5.5,2.8 Hz, 1H), 3.29 (br s, 1H), 2.96 (br s, 1H), 2.84 (AB dd, J=17.9,5.0 Hz, 1H), 2.54 (AB d, J=17.9 Hz, 1H), 2.19 (m, 1H), 1.77 (d, J=10.5 Hz, 1H). GCMS m/e 192 (M+).

reactant | Trifluoro-methanesulfonic acid 2-cyclopent-3-enylmethyl-3,4-difluoro-phenyl ester | 0.99 mmol, 340 mg | C1(CC=CC1)CC1=C(C=CC(=C1F)F)OS(=O)(=O)C(F)(F)F | C13H11F5O3S
reactant | diisopropylethylamine | 1.5 mmol, 0.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium acetate | 10.0 mmol, 981 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | palladium acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.04 mmol, 12 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 5.6-Difluorotricyclo[7.2.1.02,7]dodeca-2(7), 3,5,10-tetraene | 110 mg, 60% | FC=1C=CC=2C3C=CC(CC2C1F)C3 | C12H10F2
